US05861085
In a 500 ml four-necked flask equipped with a stirrer, a thermometer, a condenser, and a dropping funnel was placed 24.9 g (0.1 mole) of 1,3-bis(3-aminopropyl)-1,1,3,3-tetramethyldisiloxane having a gas chromatography purity of 98.4%. 31.3 g (0.3 mole) of concentrated hydrochloric acid was dropwise added to the flask, and the resulting mixture was stirred at room temperature for 30 minutes. 300 g of isopropanol was added to the solution. The resulting mixture was heated under reduced pressure, and isopropanol was distilled off while conducting azeotropic distillation, to obtain a concentrated and dried product. The concentrated and dried product thus obtained was recrystallized from isopropanol to obtain 28.9 g (yield: 90%) of 1,3-bis(3-amino-propyl)-1,1,3,3-tetramethyldisiloxane dihydrochloride which is an acid addition salt.

reactant | 1,3-bis(3-aminopropyl)-1,1,3,3-tetramethyldisiloxane | 0.1 mole, 24.9 g | NCCC[Si](O[Si](C)(C)CCCN)(C)C | C10H28N2OSi2
reactant | hydrochloric acid | 0.3 mole, 31.3 g | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 300 g | C(C)(C)O | C3H8O
product | 1,3-bis(3-amino-propyl)-1,1,3,3-tetramethyldisiloxane dihydrochloride | 28.9 g, yield: 90% | Cl.Cl.NCCC[Si](O[Si](C)(C)CCCN)(C)C | InChI=1S/C10H28N2OSi2.2ClH/c1-14(2,9-5-7-11)13-15(3,4)10-6-8-12;;/h5-12H2,1-4H3;2*1H
